### PR TITLE
[Merged by Bors] - feat: absolute continuity results for composition of measures and kernels

### PR DESCRIPTION
**Pull request by RemyDegenne**
A new file with results about the absolute continuity of the composition of measures and kernels which use an assumption `CountableOrCountablyGenerated α β` on the measurable spaces.

From the TestingLowerBounds project.
Co-authored-by: Lorenzo Luccioli

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Probability/Kernel/Composition/AbsolutelyContinuous.lean [hunk 1]
```diff
@@ -0,0 +1,91 @@
...
+  symm
+  refine ⟨s, hs, ?_⟩
+  rw [compProd_apply hs, compProd_apply hs.compl]
+  have h_eq a : Prod.mk a ⁻¹' s = Kernel.mutuallySingularSetSlice κ η a := rfl
+  have h1 a : η a (Prod.mk a ⁻¹' s) = 0 := by rw [h_eq, Kernel.measure_mutuallySingularSetSlice]
+  have h2 : ∀ᵐ a ∂μ, κ a (Prod.mk a ⁻¹' s)ᶜ = 0 := by
+    filter_upwards [hκη] with a ha
+    rw [h_eq, ← Kernel.withDensity_rnDeriv_eq_zero_iff_measure_eq_zero κ η a,
+      Kernel.withDensity_rnDeriv_eq_zero_iff_mutuallySingular]
+    exact ha
```
Comment (EtienneC30) [inline Mathlib/Probability/Kernel/Composition/AbsolutelyContinuous.lean:55]: You can also `rwa` if you want.
```suggestion
    rwa [h_eq, ← Kernel.withDensity_rnDeriv_eq_zero_iff_measure_eq_zero κ η a,
      Kernel.withDensity_rnDeriv_eq_zero_iff_mutuallySingular]
```

File: Mathlib/Probability/Kernel/Composition/AbsolutelyContinuous.lean [hunk 2]
```diff
@@ -0,0 +1,91 @@
...
+    rwa [Kernel.singularPart_eq_zero_iff_absolutelyContinuous] at ha
+  rw [← κ.rnDeriv_add_singularPart η, compProd_add_right, AbsolutelyContinuous.add_left_iff] at h
+  have : μ ⊗ₘ κ.singularPart η ⟂ₘ ν ⊗ₘ η :=
+    MutuallySingular.compProd_of_right μ ν (.of_forall <| Kernel.mutuallySingular_singularPart _ _)
+  have h_zero : μ ⊗ₘ κ.singularPart η = 0 :=
+    eq_zero_of_absolutelyContinuous_of_mutuallySingular h.2 this
+  simp_rw [← measure_univ_eq_zero]
+  refine (lintegral_eq_zero_iff (Kernel.measurable_coe _ .univ)).mp ?_
+  rw [← setLIntegral_univ, ← compProd_apply_prod .univ .univ, h_zero]
+  simp
```
Comment (EtienneC30) [inline Mathlib/Probability/Kernel/Composition/AbsolutelyContinuous.lean:81]: Maybe it's worth adding the following lemma, what do you think?
```lean
lemma compProd_eq_zero_iff [SFinite μ] : μ ⊗ₘ κ = 0 ↔ ∀ᵐ a ∂μ, κ a = 0
```

Comment (RemyDegenne) [reply Mathlib/Probability/Kernel/Composition/AbsolutelyContinuous.lean]: I added that lemma, thanks! I also added a version of it for two kernels, which led to some refactoring in the files about composition-product of kernels and measures. I hope that's ok if that refactor stays part of this PR.

File: Mathlib/Probability/Kernel/Composition/MeasureCompProd.lean [hunk 3]
```diff
@@ -51,27 +51,39 @@ lemma compProd_of_not_isSFiniteKernel (μ : Measure α) (κ : Kernel α β) (h :
...
     (μ ⊗ₘ κ) (s ×ˢ t) = ∫⁻ a in s, κ a t ∂μ := by
-  rw [compProd_apply (hs.prod ht), ← lintegral_indicator hs]
-  congr with a
-  classical
-  rw [indicator_apply]
-  split_ifs with ha <;> simp [ha]
+  simp [compProd, Kernel.compProd_apply_prod hs ht]
+
+lemma compProd_congr [IsSFiniteKernel κ] [IsSFiniteKernel η]
+    (h : κ =ᵐ[μ] η) : μ ⊗ₘ κ = μ ⊗ₘ η := by
```
Comment (EtienneC30) [inline Mathlib/Probability/Kernel/Composition/MeasureCompProd.lean:69]: Is it okay if you put the hypothesis `h` on the first line? Personally when possible I prefer to leave the statement on its own line to make it easier to read.
```suggestion
lemma compProd_congr [IsSFiniteKernel κ] [IsSFiniteKernel η] (h : κ =ᵐ[μ] η) :
    μ ⊗ₘ κ = μ ⊗ₘ η := by
```

File: Mathlib/Probability/Kernel/Composition/MeasureCompProd.lean [hunk 4]
```diff
@@ -51,27 +51,39 @@ lemma compProd_of_not_isSFiniteKernel (μ : Measure α) (κ : Kernel α β) (h :
...
+  rw [compProd, compProd]
+  congr 1
+  refine Kernel.compProd_congr ?_
+  simpa
+
+@[simp] lemma compProd_zero_left (κ : Kernel α β) : (0 : Measure α) ⊗ₘ κ = 0 := by simp [compProd]
+@[simp] lemma compProd_zero_right (μ : Measure α) : μ ⊗ₘ (0 : Kernel α β) = 0 := by simp [compProd]
```
Comment (EtienneC30) [inline Mathlib/Probability/Kernel/Composition/MeasureCompProd.lean:76]: Is it okay not to skip a line between one liners? Feel free to ignore this if it is.
```suggestion
@[simp] lemma compProd_zero_left (κ : Kernel α β) : (0 : Measure α) ⊗ₘ κ = 0 := by simp [compProd]

@[simp] lemma compProd_zero_right (μ : Measure α) : μ ⊗ₘ (0 : Kernel α β) = 0 := by simp [compProd]
```

**Review by EtienneC30 — COMMENTED** [review]
That's great! Just a few minor remarks.

File: Mathlib/Probability/Kernel/Composition/AbsolutelyContinuous.lean (hunk 2 above)
Comment (EtienneC30) [reply Mathlib/Probability/Kernel/Composition/AbsolutelyContinuous.lean]: No problem!

**Comment by EtienneC30** [comment]
Thanks!
maintainer merge
